US04719298
A mixture of 107.16 g (1 mole) of 2,3-dimethyl-pyridine and 5 g of benzamide in 400 ml of cyclohexane was heated to reflux while adding over 4 hours 130 g (0.56 mole) of trichloroisocyanuric acid (min. 90% available chlorine) in portions and the mixture was stirred for another 7 hours at reflux and then cooled. Under agitation mix with 500 ml of water and 150 ml of 50% potassium hydroxide were added with stirring to obtain a solution. The decanted organic phases were dried over MgSO4 and evaporated to dryness under reduced pressure to obtain 85 g (60%) of 2-chloromethyl-3-methyl pyridine which slowly colored red with a boiling point of 53° to 57° C. at 3 mm H

reactant | 2,3-dimethyl-pyridine | 1 mole, 107.16 g | CC1=NC=CC=C1C | C7H9N
reactant | trichloroisocyanuric acid | 0.56 mole, 130 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
reactant | water | 500 ml | O | H2O
reactant | potassium hydroxide | 150 ml | [OH-].[K+]
solvent | cyclohexane | 400 ml | C1CCCCC1 | C6H12
catalyst | benzamide | 5 g | C(C1=CC=CC=C1)(=O)N | C7H7NO
product | 2-chloromethyl-3-methyl pyridine | 85 g, 60% | ClCC1=NC=CC=C1C | C7H8ClN
